* File: hw3_part2.pex.spi.pex
* Created: Sat Nov 27 18:15:55 2021
* Program "Calibre xRC"
* Version "v2021.1_33.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW3_PART2%XI5/NET5 2 8
c0 20 0 0.070476f
c1 19 0 0.0513531f
c2 18 0 0.135612f
c3 16 0 0.070522f
c4 10 0 0.0048177f
c5 2 0 0.0048177f
r6 18 20 0.039111
r7 18 19 0.104
r8 16 19 0.039111
r9 11 20 0.0034
r10 10 11 16.3327
r11 8 10 4.608
r12 5 16 0.0034
r13 4 5 16.3327
r14 2 4 4.572
.ends

.subckt PM_HW3_PART2%XI5/NET12 6 11
c0 14 0 0.150363f
c1 9 0 0.149199f
c2 3 0 0.0538714f
c3 2 0 0.157552f
r4 13 14 5.44423
r5 11 13 1.53
r6 8 9 5.44423
r7 6 8 1.53
r8 5 14 0.1064
r9 4 9 0.1064
r10 3 4 0.039111
r11 2 5 0.039111
r12 2 3 0.224
.ends

.subckt PM_HW3_PART2%XI6/NET5 2 8
c0 20 0 0.0703712f
c1 19 0 0.0513516f
c2 18 0 0.135613f
c3 16 0 0.0703592f
c4 10 0 0.0048177f
c5 2 0 0.0048177f
r6 18 20 0.039111
r7 18 19 0.104
r8 16 19 0.039111
r9 11 20 0.0034
r10 10 11 16.3327
r11 8 10 4.608
r12 5 16 0.0034
r13 4 5 16.3327
r14 2 4 4.572
.ends

.subckt PM_HW3_PART2%XI6/NET12 6 11
c0 14 0 0.169433f
c1 11 0 0.00829031f
c2 9 0 0.168619f
c3 8 0 0.00829031f
c4 3 0 0.053876f
c5 2 0 0.164341f
r6 13 14 5.44423
r7 11 13 1.53
r8 8 9 5.44423
r9 6 8 1.53
r10 5 14 0.1064
r11 4 9 0.1064
r12 3 4 0.039111
r13 2 5 0.039111
r14 2 3 0.224
.ends

.subckt PM_HW3_PART2%NET13 2 7 15 24 51 116
c0 125 0 0.166f
c1 122 0 0.0582355f
c2 119 0 0.314796f
c3 111 0 0.101865f
c4 109 0 0.0789445f
c5 105 0 0.11641f
c6 103 0 0.0355172f
c7 102 0 0.184115f
c8 100 0 0.048703f
c9 97 0 0.0924655f
c10 91 0 0.0923879f
c11 89 0 0.256616f
c12 87 0 0.0321771f
c13 86 0 0.079852f
c14 83 0 0.0794159f
c15 80 0 0.0697463f
c16 76 0 0.0283766f
c17 54 0 0.153306f
c18 42 0 0.717458f
c19 38 0 0.0311809f
c20 37 0 0.0955503f
c21 36 0 0.238771f
c22 21 0 0.126011f
c23 15 0 0.201743f
c24 7 0 0.185378f
r25 118 119 5.44423
r26 116 118 1.536
r27 109 125 0.0422324
r28 108 109 8
r29 105 108 0.0136316
r30 103 122 0.0421183
r31 102 103 8
r32 99 119 0.339
r33 99 100 0.0296412
r34 95 97 0.085
r35 92 114 0.0206011
r36 92 93 0.0724
r37 91 93 0.0166
r38 90 105 0.0206011
r39 89 111 0.0206011
r40 89 90 0.335
r41 88 100 0.00770322
r42 87 102 0.0466793
r43 87 88 0.082
r44 86 100 0.0296412
r45 85 97 0.00411102
r46 85 86 0.184
r47 83 95 0.00411102
r48 82 114 0.0318494
r49 80 91 0.0236794
r50 80 93 0.0296643
r51 76 125 0.332429
r52 73 76 0.0363174
r53 73 122 0.165286
r54 53 54 5.44423
r55 51 53 1.524
r56 44 54 0.109
r57 42 114 0.0563684
r58 42 111 0.00503509
r59 37 44 0.0391238
r60 37 38 0.1
r61 36 38 0.039111
r62 36 82 0.39
r63 27 80 0.022
r64 26 27 16.3327
r65 24 26 4.608
r66 19 102 0.053557
r67 18 21 5.90526
r68 18 19 13.2552
r69 13 21 5.62351
r70 13 15 78.25
r71 10 21 5.62351
r72 7 10 66.5
r73 5 83 0.02
r74 4 5 16.3327
r75 2 4 4.608
.ends

.subckt PM_HW3_PART2%VSS 1 4 27 50 73 96 120 149 256
c0 341 0 0.0399873f
c1 334 0 0.0462425f
c2 332 0 0.108079f
c3 329 0 0.0903092f
c4 322 0 0.0422528f
c5 316 0 0.0587039f
c6 314 0 0.0547828f
c7 310 0 0.0910368f
c8 307 0 0.0843754f
c9 303 0 0.0657284f
c10 302 0 0.0477454f
c11 301 0 0.090526f
c12 297 0 0.0466543f
c13 288 0 0.102279f
c14 282 0 0.0857428f
c15 279 0 0.124962f
c16 275 0 0.397272f
c17 258 0 0.0558086f
c18 254 0 0.0276322f
c19 253 0 0.674901f
c20 249 0 0.187042f
c21 246 0 0.0462583f
c22 238 0 0.0671174f
c23 237 0 0.0272019f
c24 235 0 0.0190126f
c25 233 0 0.0500398f
c26 232 0 0.594398f
c27 230 0 0.0416232f
c28 229 0 0.0581255f
c29 226 0 0.316106f
c30 223 0 0.0284445f
c31 222 0 0.345806f
c32 152 0 0.172094f
c33 149 0 0.0048177f
c34 145 0 0.93907f
c35 120 0 0.0048177f
c36 116 0 0.0559135f
c37 99 0 0.140107f
c38 76 0 0.168695f
c39 53 0 0.138313f
c40 30 0 0.155636f
c41 29 0 0.00496506f
c42 24 0 0.0956684f
c43 7 0 0.129674f
r44 322 341 0.0421183
r45 321 324 0.0564912
r46 321 322 8
r47 316 318 0.053
r48 314 338 0.0124298
r49 313 314 8
r50 310 313 0.056614
r51 308 334 0.0163953
r52 307 308 8
r53 305 307 0.0564912
r54 301 332 0.0422324
r55 300 303 0.0452354
r56 300 302 0.045481
r57 300 301 8
r58 297 329 0.0422324
r59 296 297 8
r60 285 324 0.0206011
r61 280 318 0.00411102
r62 276 310 0.0206011
r63 275 316 0.00411102
r64 273 310 0.0206011
r65 270 305 0.0206011
r66 254 256 0.123
r67 250 292 0.0137883
r68 249 292 0.00451613
r69 248 254 0.039111
r70 248 249 0.466
r71 246 310 0.0566819
r72 245 267 0.00411102
r73 238 240 0.0826429
r74 237 341 0.108643
r75 235 237 0.0363174
r76 234 235 0.0492143
r77 232 234 0.0363174
r78 232 233 1.0335
r79 231 240 0.00381737
r80 230 338 0.0191296
r81 230 231 0.1027
r82 229 233 0.0363174
r83 228 240 0.0325
r84 228 229 0.132786
r85 227 334 0.0185229
r86 226 238 0.00381737
r87 226 227 0.599857
r88 224 332 0.224714
r89 222 224 0.0363174
r90 222 223 0.7865
r91 220 223 0.0363174
r92 220 329 0.224714
r93 174 246 0.0266501
r94 174 273 0.0190951
r95 173 174 16.3327
r96 171 276 0.0484
r97 170 173 17.28
r98 170 171 8.16635
r99 165 275 0.5032
r100 165 171 0.1918
r101 164 165 5.44423
r102 152 246 0.142
r103 151 152 16.3327
r104 149 151 4.572
r105 145 267 0.031
r106 144 145 16.3327
r107 142 267 0.161
r108 141 144 17.28
r109 141 142 8.16635
r110 136 142 0.1918
r111 136 303 0.7288
r112 135 136 5.44423
r113 123 245 0.142
r114 122 123 16.3327
r115 120 122 4.572
r116 116 288 0.062
r117 115 116 16.3327
r118 110 288 0.0311126
r119 110 324 0.000736842
r120 109 110 16.3327
r121 99 285 0.12
r122 98 99 16.3327
r123 96 98 4.608
r124 93 279 0.062
r125 93 280 0.189
r126 92 93 16.3327
r127 87 282 0.0195555
r128 87 279 0.0195555
r129 86 87 16.3327
r130 76 282 0.142
r131 75 76 16.3327
r132 73 75 4.608
r133 70 253 0.062
r134 70 256 1.379
r135 69 70 16.3327
r136 64 305 0.000736842
r137 64 253 0.0311126
r138 63 64 16.3327
r139 53 270 0.12
r140 52 53 16.3327
r141 50 52 4.608
r142 47 302 0.0624
r143 47 262 0.062
r144 46 47 16.3327
r145 41 258 0.0195555
r146 41 262 0.0195555
r147 40 41 16.3327
r148 30 258 0.142
r149 29 30 16.3327
r150 27 29 4.608
r151 24 296 0.0471183
r152 23 24 16.3327
r153 18 24 0.0721075
r154 18 292 0.000903226
r155 17 18 16.3327
r156 7 250 0.142
r157 6 7 16.3327
r158 4 6 4.608
r159 1 170 4.32
r160 1 164 12.942
r161 1 141 4.32
r162 1 135 12.942
r163 1 115 4.32
r164 1 109 4.302
r165 1 92 4.32
r166 1 86 4.302
r167 1 69 4.32
r168 1 63 4.302
r169 1 46 4.32
r170 1 40 4.302
r171 1 23 4.32
r172 1 17 4.302
.ends

.subckt PM_HW3_PART2%C 1 2 23 58 111
c0 143 0 0.0580246f
c1 142 0 0.0907783f
c2 136 0 0.0349986f
c3 130 0 0.0572505f
c4 122 0 0.0960154f
c5 118 0 0.0776521f
c6 117 0 0.0977114f
c7 111 0 0.255243f
c8 105 0 0.0589471f
c9 104 0 0.0642583f
c10 101 0 0.169665f
c11 100 0 0.039467f
c12 99 0 0.0740192f
c13 98 0 0.0581506f
c14 92 0 0.0690428f
c15 88 0 0.0598113f
c16 87 0 0.085739f
c17 84 0 0.0654699f
c18 83 0 0.0800994f
c19 82 0 0.0571518f
c20 80 0 0.0152715f
c21 79 0 1.4029f
c22 76 0 0.646673f
c23 72 0 0.0606052f
c24 68 0 0.177378f
c25 67 0 0.0347895f
c26 66 0 1.18017f
c27 62 0 0.84756f
c28 61 0 0.0472538f
c29 56 0 0.0970659f
c30 49 0 0.0599458f
c31 44 0 0.315f
c32 42 0 0.0221127f
c33 40 0 0.216668f
c34 33 0 0.199944f
c35 28 0 0.122844f
c36 25 0 0.0326282f
c37 23 0 0.169624f
c38 15 0 0.120863f
c39 13 0 0.134062f
c40 2 0 0.127646f
c41 1 0 0.125919f
r42 123 143 0.0453582
r43 123 142 0.0453582
r44 122 124 9.08348
r45 122 123 13.2552
r46 118 140 0.0453582
r47 117 119 9.08348
r48 117 118 13.2552
r49 111 119 100.75
r50 105 107 0.09
r51 104 134 0.0421183
r52 103 104 8
r53 101 103 0.0117578
r54 98 136 0.0421183
r55 97 100 0.0453582
r56 97 99 0.0453582
r57 97 98 8
r58 92 94 0.083
r59 88 130 0.0421183
r60 87 90 0.013386
r61 87 88 8
r62 83 128 0.0420043
r63 82 84 0.045481
r64 82 83 8
r65 78 79 3.394
r66 76 79 0.039111
r67 76 143 1.284
r68 75 105 0.00411102
r69 75 142 0.2
r70 72 107 0.00411102
r71 72 100 0.152
r72 71 92 0.00411102
r73 71 99 0.175
r74 69 90 0.0206011
r75 68 101 0.0307318
r76 66 78 0.039111
r77 66 67 2.526
r78 64 67 0.039111
r79 64 84 0.141
r80 63 80 0.0296412
r81 62 94 0.00411102
r82 62 63 1.777
r83 61 80 0.00770322
r84 61 140 0.12
r85 56 80 0.0296412
r86 56 58 0.2
r87 54 68 0.306
r88 47 49 0.0761429
r89 45 49 0.00381737
r90 45 136 0.0975
r91 44 47 0.00381737
r92 44 134 0.744714
r93 42 130 0.128143
r94 40 42 0.0363174
r95 40 128 0.569214
r96 33 69 0.221
r97 29 33 0.0453582
r98 28 29 13.2552
r99 25 28 5.92105
r100 21 25 5.62351
r101 21 23 62.5
r102 15 54 0.0183533
r103 11 15 0.0467542
r104 10 13 5.92105
r105 10 11 13.2552
r106 6 13 5.62351
r107 2 6 44
r108 1 124 44
.ends

.subckt PM_HW3_PART2%NET14 2 8 21 28 42 87 106
c0 111 0 0.118194f
c1 109 0 0.17982f
c2 103 0 0.177841f
c3 101 0 0.101848f
c4 99 0 0.0548253f
c5 94 0 0.088669f
c6 90 0 0.057729f
c7 89 0 0.0437895f
c8 88 0 0.111904f
c9 87 0 0.0909374f
c10 80 0 0.0483378f
c11 79 0 0.0740149f
c12 73 0 0.227865f
c13 71 0 0.305756f
c14 69 0 0.0338765f
c15 68 0 0.841602f
c16 52 0 0.0409573f
c17 48 0 0.128057f
c18 46 0 0.107974f
c19 42 0 0.218299f
c20 36 0 0.0353808f
c21 31 0 0.0809487f
c22 28 0 0.142023f
c23 24 0 0.282589f
c24 20 0 0.0500249f
c25 11 0 0.269475f
c26 8 0 0.00496506f
r27 108 109 5.44423
r28 106 108 1.53
r29 105 109 0.099
r30 100 111 0.0742857
r31 99 102 0.0453582
r32 99 101 0.0453582
r33 99 100 8
r34 90 92 0.077
r35 88 105 0.039111
r36 88 89 0.141
r37 87 102 0.066
r38 85 103 0.0147814
r39 85 87 0.132
r40 82 89 0.039111
r41 82 101 0.229
r42 81 90 0.00411102
r43 80 94 0.0206011
r44 80 81 0.106
r45 79 92 0.00411102
r46 78 79 0.171
r47 71 111 0.0165727
r48 70 71 0.763286
r49 68 70 0.0363174
r50 68 69 1.26193
r51 66 69 0.0363174
r52 66 73 0.417857
r53 65 74 0.0191296
r54 52 54 0.0124298
r55 46 52 8
r56 45 48 5.90526
r57 45 46 13.2552
r58 40 48 5.62351
r59 40 42 89.75
r60 37 48 5.62351
r61 36 74 0.0124298
r62 36 73 0.0422324
r63 35 94 0.000122807
r64 35 36 8
r65 31 54 0.0191296
r66 31 65 0.193143
r67 28 37 45.5
r68 23 24 5.44423
r69 21 23 1.53
r70 20 78 0.00770322
r71 19 24 0.345
r72 19 20 0.0296412
r73 15 20 0.0296412
r74 11 15 0.284
r75 10 11 16.3327
r76 8 10 4.572
r77 5 103 0.100689
r78 4 5 16.3327
r79 2 4 4.608
.ends

.subckt PM_HW3_PART2%NET1 1 9 18 31 38 52
c0 104 0 0.0990165f
c1 100 0 0.0835507f
c2 98 0 0.0678076f
c3 96 0 0.0618343f
c4 89 0 0.0399538f
c5 87 0 0.142997f
c6 84 0 0.0891102f
c7 83 0 0.08552f
c8 79 0 0.138436f
c9 76 0 0.458038f
c10 62 0 0.0310922f
c11 58 0 0.128057f
c12 56 0 0.107974f
c13 52 0 0.217432f
c14 41 0 0.0776143f
c15 38 0 0.142023f
c16 34 0 0.297355f
c17 30 0 0.0511615f
c18 21 0 0.236299f
c19 15 0 0.126003f
c20 13 0 0.115378f
c21 9 0 0.193741f
c22 1 0 0.186349f
r23 97 104 0.0126579
r24 96 98 0.0453582
r25 96 97 8
r26 90 100 0.0206011
r27 89 98 0.134
r28 86 89 0.039111
r29 86 87 0.292
r30 85 93 0.0206011
r31 84 87 0.039111
r32 84 85 0.148
r33 83 90 0.204
r34 78 79 0.276714
r35 77 104 0.0191296
r36 76 78 0.0363174
r37 76 77 1.09664
r38 62 64 0.0124298
r39 56 62 8
r40 55 58 5.90526
r41 55 56 13.2552
r42 50 58 5.62351
r43 50 52 89.75
r44 47 58 5.62351
r45 46 79 0.0166662
r46 46 75 0.0196512
r47 45 100 0.013386
r48 45 46 8
r49 41 64 0.0191296
r50 41 75 0.193143
r51 38 47 45.5
r52 33 34 5.44423
r53 31 33 1.53
r54 30 83 0.00770322
r55 29 34 0.345
r56 29 30 0.0296412
r57 25 30 0.0296412
r58 21 25 0.284
r59 20 21 16.3327
r60 18 20 4.572
r61 13 93 0.00442105
r62 12 15 5.90526
r63 12 13 13.2552
r64 7 15 5.62351
r65 7 9 78.25
r66 4 15 5.62351
r67 1 4 66.5
.ends

.subckt PM_HW3_PART2%VDD 2 3 23 42 43 62 63 82 83 102 103 122 123 209 317
c0 345 0 0.0384817f
c1 339 0 0.0760618f
c2 334 0 0.0384849f
c3 329 0 0.038814f
c4 322 0 0.0747372f
c5 313 0 0.0315521f
c6 309 0 0.064971f
c7 305 0 0.0482865f
c8 304 0 0.0624992f
c9 301 0 0.0692912f
c10 296 0 0.0849543f
c11 288 0 0.0450786f
c12 284 0 0.0558177f
c13 280 0 0.0497317f
c14 279 0 0.0490444f
c15 272 0 0.0662808f
c16 270 0 0.0641225f
c17 266 0 0.0459189f
c18 259 0 0.335864f
c19 252 0 0.0792466f
c20 246 0 0.0423406f
c21 242 0 0.126723f
c22 240 0 0.339871f
c23 213 0 0.012549f
c24 212 0 0.00992567f
c25 211 0 0.0135527f
c26 210 0 0.012549f
c27 207 0 0.123439f
c28 204 0 0.075083f
c29 203 0 0.189838f
c30 199 0 0.0277228f
c31 198 0 0.130913f
c32 197 0 0.0319183f
c33 194 0 0.330523f
c34 193 0 0.0334566f
c35 191 0 0.0235054f
c36 190 0 0.68699f
c37 189 0 0.0263932f
c38 187 0 0.0813222f
c39 184 0 0.291199f
c40 181 0 0.0255907f
c41 180 0 0.289056f
c42 179 0 0.0128866f
c43 176 0 0.193502f
c44 174 0 0.0559429f
c45 173 0 0.0235054f
c46 172 0 0.568902f
c47 171 0 1.16929f
c48 130 0 0.173921f
c49 126 0 0.307155f
c50 125 0 0.00803565f
c51 106 0 0.298487f
c52 96 0 0.0626125f
c53 86 0 0.300131f
c54 36 0 0.0584473f
c55 26 0 0.305621f
c56 16 0 0.0181308f
c57 6 0 0.262234f
r58 317 322 16.3327
r59 313 349 0.0421183
r60 312 313 8
r61 309 312 0.0135088
r62 305 345 0.0422324
r63 304 307 0.013386
r64 304 305 8
r65 301 343 0.0421183
r66 300 301 8
r67 297 322 0.071
r68 296 300 0.0135088
r69 296 297 0.0206011
r70 293 339 0.0282609
r71 292 293 8
r72 288 338 0.0421183
r73 287 288 8
r74 284 287 0.0135088
r75 280 334 0.0422324
r76 279 282 0.013386
r77 279 280 8
r78 276 332 0.0421183
r79 276 329 0.0125439
r80 275 276 8
r81 272 275 0.0135088
r82 270 328 0.0809043
r83 270 326 0.0152128
r84 269 270 8
r85 266 269 0.0135088
r86 261 309 0.0206011
r87 261 262 0.043
r88 256 307 0.0206011
r89 252 295 0.0308582
r90 249 295 0.0160151
r91 243 284 0.0206011
r92 237 282 0.0206011
r93 232 272 0.0206011
r94 232 233 0.053
r95 227 266 0.0206011
r96 227 228 0.044
r97 226 262 0.00411102
r98 225 259 0.00411102
r99 224 240 0.00411102
r100 223 233 0.00411102
r101 222 228 0.00411102
r102 207 349 0.401143
r103 205 213 0.0275239
r104 204 207 0.0363174
r105 204 205 0.1495
r106 203 213 0.00715299
r107 202 203 0.606357
r108 200 345 0.106786
r109 198 202 0.0363174
r110 198 199 0.346357
r111 197 199 0.0363174
r112 197 343 0.0696429
r113 195 212 0.0275239
r114 194 200 0.0363174
r115 194 195 1.105
r116 193 339 0.0229475
r117 192 212 0.00715299
r118 192 193 0.0928571
r119 190 213 0.0275239
r120 190 191 1.77357
r121 189 211 0.0275239
r122 189 338 0.0733571
r123 187 191 0.0363174
r124 186 211 0.0275239
r125 186 187 0.158786
r126 185 210 0.0275239
r127 184 212 0.0275239
r128 184 185 0.793929
r129 182 210 0.00715299
r130 182 334 0.106786
r131 180 211 0.00715299
r132 180 181 0.741929
r133 179 181 0.0363174
r134 179 332 0.0362143
r135 177 326 0.0131361
r136 176 329 0.0191296
r137 176 177 0.688071
r138 175 209 0.0181587
r139 174 328 0.0131361
r140 174 175 0.155071
r141 172 210 0.0275239
r142 172 173 1.58043
r143 171 209 0.0181587
r144 170 173 0.0363174
r145 170 171 3.159
r146 139 295 0.00492958
r147 139 292 0.0598592
r148 138 139 16.3327
r149 136 252 0.15
r150 135 138 17.28
r151 135 136 5.44423
r152 130 136 0.2878
r153 129 130 5.44423
r154 126 249 0.362
r155 125 126 5.44423
r156 123 125 1.53
r157 122 135 8.64
r158 122 129 17.262
r159 119 246 0.0195555
r160 119 242 0.0195555
r161 118 119 16.3327
r162 116 242 0.15
r163 115 118 17.28
r164 115 116 5.44423
r165 110 116 0.2878
r166 110 243 0.1582
r167 109 110 5.44423
r168 106 246 0.362
r169 105 106 5.44423
r170 103 105 1.53
r171 102 115 8.64
r172 102 109 17.262
r173 95 96 16.3327
r174 90 96 0.0958
r175 90 262 0.0012
r176 89 90 16.3327
r177 86 226 0.362
r178 85 86 5.44423
r179 83 85 1.524
r180 82 95 4.32
r181 82 89 4.302
r182 76 256 0.0574
r183 75 76 16.3327
r184 70 259 0.0012
r185 70 76 0.0958
r186 69 70 16.3327
r187 66 225 0.362
r188 65 66 5.44423
r189 63 65 1.524
r190 62 75 4.32
r191 62 69 4.302
r192 56 237 0.0624
r193 55 56 16.3327
r194 50 240 0.0012
r195 50 56 0.0958
r196 49 50 16.3327
r197 46 224 0.362
r198 45 46 5.44423
r199 43 45 1.524
r200 42 55 4.32
r201 42 49 4.302
r202 35 36 16.3327
r203 30 36 0.0958
r204 30 233 0.0012
r205 29 30 16.3327
r206 26 223 0.362
r207 25 26 5.44423
r208 23 25 1.524
r209 15 16 16.3327
r210 10 16 0.0958
r211 10 228 0.0012
r212 9 10 16.3327
r213 6 222 0.362
r214 5 6 5.44423
r215 3 5 1.524
r216 2 35 4.32
r217 2 29 4.302
r218 2 15 4.32
r219 2 9 4.302
.ends

.subckt PM_HW3_PART2%NET18 2 8 21 46
c0 49 0 0.142854f
c1 43 0 0.0657161f
c2 39 0 0.0609764f
c3 37 0 0.0700507f
c4 32 0 0.0418633f
c5 24 0 0.253859f
c6 20 0 0.050027f
c7 11 0 0.192462f
c8 5 0 0.164121f
r9 48 49 5.44423
r10 46 48 1.524
r11 44 49 0.099
r12 43 44 0.00767388
r13 41 43 0.0478093
r14 38 39 0.067
r15 37 41 0.00767388
r16 36 39 0.00411102
r17 36 37 0.1624
r18 33 38 0.00411102
r19 32 38 0.035
r20 31 32 0.104
r21 23 24 5.44423
r22 21 23 1.53
r23 20 31 0.00770322
r24 19 24 0.345
r25 19 20 0.0296412
r26 15 20 0.0296412
r27 11 15 0.284
r28 10 11 16.3327
r29 8 10 4.572
r30 5 33 0.274
r31 4 5 16.3327
r32 2 4 4.572
.ends

.subckt PM_HW3_PART2%!C 1 8 19 45 72
c0 88 0 0.0418766f
c1 85 0 0.0522196f
c2 82 0 0.0607475f
c3 81 0 0.131392f
c4 78 0 0.0771849f
c5 77 0 0.129277f
c6 72 0 0.169371f
c7 66 0 0.0375466f
c8 64 0 0.0606886f
c9 62 0 0.0777608f
c10 56 0 0.235414f
c11 55 0 0.335498f
c12 53 0 0.253077f
c13 52 0 0.0348997f
c14 51 0 0.232098f
c15 48 0 0.529081f
c16 47 0 0.0635924f
c17 43 0 0.0409852f
c18 42 0 0.784434f
c19 39 0 0.376442f
c20 32 0 0.120921f
c21 30 0 0.134061f
c22 19 0 0.127645f
c23 18 0 0.0831252f
c24 13 0 0.122844f
c25 10 0 0.0333111f
c26 8 0 0.160883f
c27 1 0 0.132f
r28 82 88 0.045481
r29 81 83 5.84922
r30 81 82 13.2552
r31 78 85 0.045481
r32 77 78 13.2552
r33 74 77 5.93684
r34 70 83 5.68071
r35 70 72 70.75
r36 67 74 5.62351
r37 64 65 0.0686275
r38 60 62 0.105
r39 58 88 0.118
r40 57 66 0.0296412
r41 56 58 0.039111
r42 56 57 0.295
r43 54 66 0.00770322
r44 54 55 0.652
r45 53 55 0.039111
r46 51 62 0.00411102
r47 50 52 0.039111
r48 50 51 0.404
r49 49 65 0.00480228
r50 48 66 0.0296412
r51 48 49 0.804
r52 47 64 0.0343137
r53 46 60 0.00411102
r54 46 47 0.144
r55 43 45 0.126
r56 42 64 0.00480228
r57 42 45 1.268
r58 40 43 0.039111
r59 40 85 0.124
r60 39 52 0.634
r61 32 39 0.0183533
r62 28 32 0.0467542
r63 27 30 5.92105
r64 27 28 13.2552
r65 23 30 5.62351
r66 19 23 44
r67 18 53 0.358
r68 14 18 0.0453582
r69 13 14 13.2552
r70 10 13 5.92105
r71 6 10 5.62351
r72 6 8 62.5
r73 1 67 44
.ends

.subckt PM_HW3_PART2%NET5 2 7 15 23 31 40 67 143
c0 148 0 0.107276f
c1 139 0 0.117197f
c2 134 0 0.0290707f
c3 131 0 0.289772f
c4 130 0 0.0173356f
c5 129 0 0.0368464f
c6 127 0 0.054773f
c7 126 0 0.132675f
c8 125 0 0.0312574f
c9 121 0 0.112265f
c10 120 0 0.317672f
c11 117 0 0.0702005f
c12 115 0 0.112042f
c13 113 0 0.258161f
c14 110 0 0.245306f
c15 107 0 0.0587335f
c16 106 0 0.0473268f
c17 105 0 0.174135f
c18 99 0 0.0473957f
c19 98 0 0.0456443f
c20 97 0 0.0530973f
c21 96 0 0.849024f
c22 95 0 0.178997f
c23 92 0 0.0769457f
c24 91 0 0.06891f
c25 76 0 0.0806518f
c26 72 0 0.0642118f
c27 70 0 0.190177f
c28 67 0 0.00594197f
c29 61 0 0.074551f
c30 54 0 0.0338201f
c31 53 0 0.0972326f
c32 52 0 0.246604f
c33 47 0 0.35041f
c34 37 0 0.126003f
c35 31 0 0.193741f
c36 23 0 0.186335f
c37 21 0 0.126003f
c38 19 0 0.115912f
c39 15 0 0.193741f
c40 7 0 0.186334f
r41 145 148 8.16635
r42 145 146 16.3327
r43 143 145 1.53
r44 132 133 0.0314389
r45 130 132 0.026988
r46 130 131 0.0314389
r47 128 148 0.011
r48 128 129 0.0296412
r49 127 146 0.0188
r50 127 129 0.0296412
r51 125 126 0.00641667
r52 119 120 0.625
r53 118 137 0.0206011
r54 117 119 0.039111
r55 117 118 0.089
r56 116 132 0.00996133
r57 115 139 0.0206011
r58 115 116 0.279
r59 114 134 0.0296412
r60 113 120 0.039111
r61 113 114 0.369
r62 111 134 0.00770322
r63 111 131 0.601
r64 110 133 0.545
r65 108 129 0.00770322
r66 107 130 0.00996133
r67 107 108 0.172
r68 105 110 0.039111
r69 105 106 0.238
r70 103 106 0.039111
r71 103 125 0.0664
r72 99 100 0.0164
r73 98 121 0.0206011
r74 98 100 0.0726
r75 96 134 0.0296412
r76 96 97 1.276
r77 95 97 0.039111
r78 94 95 0.302
r79 93 121 0.0318494
r80 92 94 0.039111
r81 91 99 0.0236794
r82 91 100 0.0296643
r83 69 70 5.44423
r84 67 69 1.524
r85 65 76 0.0126579
r86 64 65 8
r87 61 64 0.0136316
r88 61 92 0.0206011
r89 60 70 0.109
r90 59 72 0.0126579
r91 58 121 0.0563684
r92 58 59 8
r93 53 60 0.0391238
r94 53 54 0.1
r95 52 54 0.039111
r96 52 93 0.39
r97 48 72 0.0191296
r98 47 76 0.0191296
r99 47 48 0.6825
r100 43 91 0.022
r101 42 43 16.3327
r102 40 42 4.608
r103 35 139 0.00442105
r104 34 37 5.90526
r105 34 35 13.2552
r106 29 37 5.62351
r107 29 31 78.25
r108 26 37 5.62351
r109 23 26 66.5
r110 19 137 0.00442105
r111 18 21 5.90526
r112 18 19 13.2552
r113 13 21 5.62351
r114 13 15 78.25
r115 10 21 5.62351
r116 7 10 66.5
r117 5 126 0.067
r118 4 5 16.3327
r119 2 4 4.572
.ends

.subckt PM_HW3_PART2%D 1 9 21
c0 23 0 0.117716f
c1 19 0 0.0808658f
c2 15 0 0.126002f
c3 9 0 0.202372f
c4 1 0 0.192008f
r5 19 23 0.0206011
r6 19 21 0.142
r7 13 23 0.00442105
r8 12 15 5.90526
r9 12 13 13.2552
r10 7 15 5.62351
r11 7 9 78.25
r12 4 15 5.62351
r13 1 4 66.5
.ends

.subckt PM_HW3_PART2%Q 2 15 26
c0 24 0 0.112913f
c1 18 0 0.281416f
c2 14 0 0.0500249f
c3 5 0 0.222565f
r4 24 26 0.222
r5 17 18 5.44423
r6 15 17 1.53
r7 14 24 0.00770322
r8 13 18 0.345
r9 13 14 0.0296412
r10 9 14 0.0296412
r11 5 9 0.284
r12 4 5 16.3327
r13 2 4 4.572
.ends

.subckt PM_HW3_PART2%!Q 2 15 26
c0 26 0 0.120452f
c1 18 0 0.308458f
c2 14 0 0.0500249f
c3 5 0 0.233798f
r4 24 26 0.172
r5 17 18 5.44423
r6 15 17 1.53
r7 14 24 0.00770322
r8 13 18 0.345
r9 13 14 0.0296412
r10 9 14 0.0296412
r11 5 9 0.284
r12 4 5 16.3327
r13 2 4 4.572
.ends

